US07745632B2
In a reactor flask purged with nitrogen gas, 1.4 g (2.0 mmol) of the compound No. 40 obtained in Example 2, 0.50 g (2.2 mmol) of 3,4-dibutoxy-3-cyclobutene, 4.0 g of butanol, and 0.24 g of pyridine were charged, and the resulting mixture was stirred at room temperature for 15 hours, at 50° C. for 4 hours, and at 75° C. for 21 hours. The reaction solution was cooled to room temperature and concentrated to dryness under reduced pressure. The resulting residue was purified with a column (silica gel, chloroform:acetone=10:1) to obtain 0.92 g of a brown amorphous product (yield: 70%). The brown amorphous product was subjected to the 1H-NMR analysis. The brown amorphous product was identified as the aimed product of compound No. 50. The result of the 1H-NMR analysis is shown below.

reactant | butanol | 4.0 g | C(CCC)O | C4H10O
solvent | pyridine | 0.24 g | N1=CC=CC=C1 | C5H5N
product | 3,4-dibutoxy-3-cyclobutene | 2.2 mmol, 0.50 g | C(CCC)OC=1CCC1OCCCC | C12H22O2
